US07807673B2
Step B: N-[2-(dimethylamino)ethyl]-2,2,2-trifluoro-N-[(3-nitrophenyl)methyl]-acetamide
To a solution of [2-(dimethylamino)ethyl][(3-nitrophenyl)methyl]amine (180 mg, 0.8 mmol) in DCM was added TEA (167 μL, 1.2 mmol) and TFAA (135 μL, 0.96 mmol). After 3 h at rt, the reaction mixture was diluted with DCM, washed with 2 N NaOH, dried over Na2SO4, and adsorbed onto silica gel. The product was purified by column chromatography to generate the title compound in 76% yield over two steps. 1H NMR (400 MHz, CDCl3) δ8.18 (s, 1H), 8.12 (d, J=8.2 Hz, 1H), 7.74 (d, J=7.5 Hz, 1H), 7.52 (t, J=7.9 Hz, 1H), 4.70 (s, 2H), 3.13 (t, J=6.0 Hz, 2H), 3.00 (t, J=5.9 Hz, 2H), 2.78 (s, 6H). ES-LC/MS m/z=320 [M+H]+.

reactant | [2-(dimethylamino)ethyl][(3-nitrophenyl)methyl]amine | 0.8 mmol, 180 mg | CN(CCNCC1=CC(=CC=C1)[N+](=O)[O-])C | C11H17N3O2
reactant | TFAA | 0.96 mmol, 135 μL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[2-(dimethylamino)ethyl]-2,2,2-trifluoro-N-[(3-nitrophenyl)methyl]-acetamide | 76% yield | CN(CCN(C(C(F)(F)F)=O)CC1=CC(=CC=C1)[N+](=O)[O-])C | C13H16F3N3O3
